US05059692
Methyl 1-amino-4,5-dihydro-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate (compound 10)
To a suspension of 0.34 g of lithium aluminum hydride in 30 ml of tetrahydrofuran was added a solution of 1.20 g aluminium chloride in 60 ml of ether for 10 minutes. To the mixture was added a solution of 1.05 g of methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate in 60 ml of tetrahydrofuran for 50 minutes, which was prepared by Example 1, and the mixture was stirred for 40 minutes. To the reaction mixture was added 30 ml of a 5% sodium hydroxide aqueous solution, and the mixture was stirred. The aqueous layer was extracted with 30 ml of tetrahydrofuran twice. The organic layers were combined together, and dried over anhydrous magnesium sulfate. The dried solution was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/chloroform=1/1) to obtain amorphous product in orange-yellow. The amorphous product obtained was triturated with n-hexane to obtain 180 mg of the desired product.

reactant | lithium aluminum hydride | 0.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 1.20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate | 1.05 g | NC1=C(SC=2N(C(C=3C=CC=CC3C21)=O)C2=CC=CC=C2)C(=O)OC | C19H14N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Methyl 1-amino-4,5-dihydro-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate | 180 mg | NC1=C(SC=2N(CC=3C=CC=CC3C21)C2=CC=CC=C2)C(=O)OC | C19H16N2O2S
